Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
LLE pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old F otherwise healthy who is G5P4 at 7 weeks with 
threathened abortion who is admitted with acute LLE DVT. Pt has 
had recent abnormal bleeding in the context of a 7 week 
pregnancy which has been managed as a likely threatened 
abortion. Pt woke up early yesterday morning with significant 
pain in the LLE, radiating down anterior aspect of proximal LLE 
and posterior aspect of distal LLE. She was brought to the ED 
where a code-cord was called due to significant LLE weakness. 
She received IV morphine for pain with significant improvement 
in her pain and in her strength. Pt seen by neurology who did 
not feel she had a neurological etiology for her weakness. Pt 
had an ultrasound of the LLE which revealed an extensive DVT 
which extended to the common femoral vein. Pt started on IV 
heparin gtt and admitted for further care given concern for 
increased vaginal bleeding. 

On evaluation on the floor, she reports minimal pain in the LLE. 
No chest pain or dyspnea. She does report that with her recent 
threatened abortion including abdominal cramping and bleeding 
that she had taken time off from work and was home for the past 
week and spending half the day in bed.

ROS: A 10-point review of systems was negative except as stated 
above. 
 
Past Medical History:
# G5P4, currently with threatened abortion at 7 weeks

 
Social History:
___
Family History:
No family history of thrombophilia. 
 
Physical Exam:
ADMISSION
VS: T 97.96 106 / 62 89 16 100%RA
Gen: NAD
HEENT: NCAT
CV: rrr, no r/m/g
Pulm: clear bl
Abd: soft, nt/nd
Ext: mild increase in diameter of LLE>RLE, no calf tenderness 
Neuro: 4+/5 on LLE  

DISCHARGE
VS: 98.1 PO  BP 98 / 64  HR 81  RR 18  O2 sat 99% RA
General: alert and sitting up in bed, no acute distress
CV: r/r/r, no murmurs
Resp: CTA bilaterally
Abd: soft, mildly tender in the lower quadrants, no rebound or 
guarding
Ext: L > R increase in diameter, minimal swelling, no calf 
tenderness
 
Pertinent Results:
ADMISSION labs:
___ 01:30PM BLOOD WBC-10.5* RBC-4.89 Hgb-11.7 Hct-36.8 
MCV-75* MCH-23.9* MCHC-31.8* RDW-16.5* RDWSD-44.4 Plt ___
___ 05:35PM BLOOD Neuts-69.3 ___ Monos-10.6 
Eos-0.5* Baso-0.2 Im ___ AbsNeut-7.44*# AbsLymp-2.03 
AbsMono-1.13* AbsEos-0.05 AbsBaso-0.02
___ 05:35PM BLOOD Glucose-107* UreaN-7 Creat-0.6 Na-136 
K-3.5 Cl-98 HCO3-22 AnGap-20

DISCHARGE labs:
___ 07:10AM BLOOD WBC-8.3 RBC-4.51 Hgb-10.7* Hct-33.6* 
MCV-75* MCH-23.7* MCHC-31.8* RDW-16.0* RDWSD-43.5 Plt ___
___ 07:10AM BLOOD ___ PTT-94.0* ___
___ 08:25AM BLOOD UreaN-5* Creat-0.6

LLE venous Doppler ___
Extensive deep venous thrombus in the left lower extremity 
extending from the common femoral through the calf veins. 

OB Ultrasound ___
The previously described misshapen intrauterine gestational sac 
is no longer evident.  There is a small amount of blood products 
demonstrated within the endometrial cavity.  There is no 
sonographic evidence for vascularized retained products of 
conception.  This is consistent with SAB in progress.

 
Brief Hospital Course:
___ F PMhx G5P4, 7 weeks pregnant, admitted last night with 
threatened abortion and new L lower extremity DVT, status post 
initiation of anticoagulation, course complicated by completion 
of spontaneous abortion

# Acute L Common Femoral DVT – Patient presented with worsening 
LLE pain and swelling.  Ultrasound showed acute L common femoral 
DVT.  Patient was started on on heparin drip given concurrent 
vaginal bleeding and uncertainty regarding her pregnancy (see 
below).  Once her spontaneous abortion was completed, she was 
presented with the various options of treatment and preferred a 
lovenox bridge to therapeutic warfarin. She was discharged to 
take 5mg warfarin daily and will follow-up with her PCP for INR 
monitoring.

# Spontaneous Abortion – Prior to presentation, patient had seen 
her Obgyn with vaginal bleeding and had been found to have a 
threatened abortion.  Given persistent vaginal bleeding and 
downtrending serum hCG, patient underwent repeat vagina 
ultrasound which no longer visualized gestational sac, 
indicating completion of spontaneous abortion.  OBGYN discussed 
with patient, and social work provided support.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Enoxaparin Sodium 90 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 100 mg/mL ___very twelve (12) hours Disp 
#*60 Syringe Refills:*0 
3.  Warfarin 5 mg PO ONCE Duration: 1 Dose 
RX *warfarin [Coumadin] 1 mg 5 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
deep venous thrombosis
spontaneous abortion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure caring for you during your stay at ___ 
___. You were admitted for a blood clot in 
your leg. Unfortunately, we are also so sorry that your 
pregnancy was lost. 

In order to treat your blood clot, you were presented with a few 
options and you chose warfarin (also called Coumadin). You 
should follow closely with your primary care doctor to ensure 
that your warfarin levels are checked and monitored. 

You should also continue taking the enoxaparin (also called 
Lovenox) shots until the warfarin level is therapeutic. Please 
take warfarin 5mg a day until directed by your doctor. You 
should be seen on ___ or ___ for a blood test to check 
the level. 

Please take care,
Your ___ Team
 
Followup Instructions:
___